### PR TITLE
[Merged by Bors] - feat(SetTheory/Ordinal/CantorNormalForm): Evaluate a Finsupp as a CNF

### PR DESCRIPTION
**Pull request by vihdzp**
Used in the CGT repo.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/CantorNormalForm.lean [hunk 1]
```diff
@@ -245,4 +255,79 @@ theorem coeff_zero_left (o : Ordinal) : coeff 0 o = single 0 o :=
...
+    rw [add_assoc, eval_single_add, eval_single_add' _ hf₁, IH, add_assoc]
+    · simp_all
+    · intro e₂ he₂
+      obtain he₂ | he₂ := Finset.mem_union.1 <| support_add he₂
+      · exact (hf₁ _ he₂).le
+      · apply h _ _ _ he₂
+        simp_all
+
+@[simp]
+theorem eval_coeff (b o : Ordinal) : eval b (coeff b o) = o := by
```
Comment (plp127) [inline Mathlib/SetTheory/Ordinal/CantorNormalForm.lean:386]: Can you show the other inverse too?

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/CantorNormalForm.lean:386]: Added the other inverse, this took quite a bit of effort. These new proofs kinda suck, golfing appreciated.

File: Mathlib/SetTheory/Ordinal/CantorNormalForm.lean [hunk 2]
```diff
@@ -245,4 +277,144 @@ theorem coeff_zero_left (o : Ordinal) : coeff 0 o = single 0 o :=
...
+    (hb : ∀ e', f e' < b) (he : ∀ e' ∈ f.support, e' < e) : eval b f < b ^ e := by
+  induction f using Finsupp.induction_on_max generalizing e with
+  | zero =>
+    rw [eval_zero_right]
+    exact opow_pos _ (hb 0)
+  | single_add e' x f hf hx IH =>
+    have he' : e' ∉ f.support := fun h ↦ (hf _ h).false
+    rw [eval_single_add' _ hf]
+    apply opow_mul_add_lt_opow _ (IH _ hf)
+    · convert he e' _
```
Comment (jcommelin) [inline Mathlib/SetTheory/Ordinal/CantorNormalForm.lean]: Are these `convert`s hinting at missing API lemmas?

**Review by jcommelin — COMMENTED** [review]
Just a small question about use of `convert`. Otherwise LGTM.

File: Mathlib/SetTheory/Ordinal/CantorNormalForm.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/CantorNormalForm.lean]: I rewrote these using `LE.le.trans_eq'`, no `convert` needed.

File: Mathlib/SetTheory/Ordinal/CantorNormalForm.lean [hunk 3]
```diff
@@ -30,10 +33,7 @@ normal form:
 - Prove the basic results relating the CNF to the arithmetic operations on ordinals.
 -/
 
-@[expose] public section
```
Comment (b-mehta) [inline Mathlib/SetTheory/Ordinal/CantorNormalForm.lean:33]: Are you sure you can get away with making this change (to the defs)?

**Review by b-mehta — COMMENTED** [review]
bors d+

File: Mathlib/SetTheory/Ordinal/CantorNormalForm.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/CantorNormalForm.lean:33]: Pretty sure of it. This is one of those cases where the definitions are better characterized by the API than by the actual definitions.
